US07317012B2
8E. Preparation of 6-chloro-7-(4-chlorophenyl)-2-((6-(trifluoromethyl)pyridin-3-yl)methyl)-[1,2,4]triazolo[4,3-b]pyridazin-3(2H)-one
A suspension of 6-chloro-7-(4-chlorophenyl)-[1,2,4]triazolo[4,3-b]pyridazin-3(2H)-one (843 mg, 3 mmol), 5-chloromethyl-2-(trifluoromethyl)pyridine (704 mg, 3.6 mmol) and solid K2CO3 (830 mg, 6 mmol) in anhydrous DMF (10 mL) was stirred at 70° C. for 20 min. Analysis by HPLC/MS indicated the reaction was complete. After cooling to room temperature, the reaction was diluted with water and extracted with EtOAc (40 mL×3). The combined EtOAc extracts were washed with saturated aqueous NaCl, dried (Na2SO4) and concentrated under reduced pressure. The crude product was purified by trituration with CH2Cl2-hexanes to afford 1.10 g (84%) of the title compound as a yellow solid. LC/MS (method A): retention time=3.50 min, (M+H)+=440.

reactant | 6-chloro-7-(4-chlorophenyl)-[1,2,4]triazolo[4,3-b]pyridazin-3(2H)-one | 3 mmol, 843 mg | ClC=1C(=CC=2N(N1)C(NN2)=O)C2=CC=C(C=C2)Cl | C11H6Cl2N4O
reactant | 5-chloromethyl-2-(trifluoromethyl)pyridine | 3.6 mmol, 704 mg | ClCC=1C=CC(=NC1)C(F)(F)F | C7H5ClF3N
reactant | K2CO3 | 6 mmol, 830 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 6-chloro-7-(4-chlorophenyl)-2-((6-(trifluoromethyl)pyridin-3-yl)methyl)-[1,2,4]triazolo[4,3-b]pyridazin-3(2H)-one | 1.10 g, 84% | ClC=1C(=CC=2N(N1)C(N(N2)CC=2C=NC(=CC2)C(F)(F)F)=O)C2=CC=C(C=C2)Cl | C18H10Cl2F3N5O
